US07750000B2
6-Chloroimidazo[1,2-b]pyridazine (Example 1.0 OP 3055)
5.0 g (38.6 mmol) of 3-amino-6-chloropyridazine were heated together with 4.7 ml (40 mmol) of chloracetaldehyde (55% strength in water) in 15 ml of n-butanol at 120° C. for a period of 5 days. After the reaction was complete, the reaction mixture was added to saturated sodium bicarbonate solution and extracted three times with ethyl acetate. The combined organic phases were then washed with sat. sodium chloride solution and dried over sodium sulfate, and the solvent was removed in vacuo. In the final purification by chromatography on silica gel, 4.17 g (70%) of the desired product were isolated in the form of an amorphous white solid.

reactant | 3-amino-6-chloropyridazine | 38.6 mmol, 5.0 g | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | chloracetaldehyde | 40 mmol, 4.7 ml | ClCC=O | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | n-butanol | 15 ml | C(CCC)O | C4H10O
product | 6-Chloroimidazo[1,2-b]pyridazine | 4.17 g, 70% | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
